US06218404B1
1-(4-Benzoyloxybut-2-ynyl)-4-benzylpiperidine
1-Benzoyloxybut-4-ol-2-yn. To a solution of but-2-yne-1,4-diol (19 g, 0.22 mol) in a mixture of dry benzene (50 mL) and dry pyridine (22 mL) was added dropwise a solution of benzoyl chloride (22 mL) in dry chloroform (40 mL) at 0-5° C. The resulting solution was allowed to stir at room temperature for another 4 hr and was washed with 1 N H2SO4 (4×20 mL), water (3×20 mL) and was dried over Na2SO4. Evaporation of solvent gave a residue, which was purified by flash chromatography to give the title compound as a colorless oil (3.5 g, 10%): 1H NMR (CDCl3) d 1.74 (bs, 1 H), 4.34 (s, 2 H), 4.97 (s, 2 H), 7.45 (m, 2 H), 7.56 (m, 2 H), 8.06 (d, J=7.5 Hz, 2 H).

reactant | but-2-yne-1,4-diol | 0.22 mol, 19 g | C(C#CCO)O | C4H6O2
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
reactant | pyridine | 22 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 22 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Benzoyloxybut-2-ynyl)-4-benzylpiperidine | 3.5 g, 10% | C(C1=CC=CC=C1)(=O)OCC#CCN1CCC(CC1)CC1=CC=CC=C1 | C23H25NO2
